US07514451B2
Platinum (IV) oxide (50.0 mg) was suspended in ethanol (7 mL) and the suspension was stirred at room temperature under a stream of hydrogen gas (blown by a balloon) for 30 min. Subsequently, a mixture (551 mg) of (3R,4R)-3-azidomethyl-1-benzyloxycarbonyl-4-fluoropyrrolidine and 3-azidomethyl-1-benzyloxycarbonyl-3-pyrroline in ethanol (3 mL) was added and the mixture was stirred at room temperature under a stream of hydrogen gas (blown by a balloon) for 5 hours. The catalyst in the reaction mixture was filtered and was washed with ethanol. The filtrate and the washings were combined and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluant: ethyl acetate->ethyl acetate: methanol=10:1) to give a mixture (313 mg) of (3S,4R)-3-aminomethyl-1-benzyloxycarbonyl-4-fluoropyrrolidine and 3-aminomethyl-1-benzyloxycarbonyl-3-pyrroline.

reactant | hydrogen | [H][H] | H2
reactant | (3R,4R)-3-azidomethyl-1-benzyloxycarbonyl-4-fluoropyrrolidine | 551 mg | N(=[N+]=[N-])C[C@H]1CN(C[C@@H]1F)C(=O)OCC1=CC=CC=C1 | C13H15FN4O2
reactant | 3-azidomethyl-1-benzyloxycarbonyl-3-pyrroline | N(=[N+]=[N-])CC=1CN(CC1)C(=O)OCC1=CC=CC=C1 | C13H14N4O2
solvent | ethanol | 7 mL | C(C)O | C2H6O
solvent | ethanol | 3 mL | C(C)O | C2H6O
catalyst | Platinum (IV) oxide | 50.0 mg | [Pt](=O)=O
product | (3S,4R)-3-aminomethyl-1-benzyloxycarbonyl-4-fluoropyrrolidine | 313 mg | NC[C@H]1CN(C[C@@H]1F)C(=O)OCC1=CC=CC=C1 | C13H17FN2O2
